US04650811
31 g of p-hydroxybenzyltriphenylphosphonium bromide ware suspended in 350 ml of tetrahydrofuran under an inert atmosphere, and over one hour 86 ml of a 1.6 M solution of butyllithium in hexane were added thereto. After stirring for 30 minutes, a solution of 5 g of 4-formyl-indole in 100 ml of tetrahydrofuran was added over 30 minutes, and the mixture was stirred for 24 hours. After dilution with 500 ml of water, the mixture was extracted with ethyl acetate. The fractions with an Rf=0.15 were isolated by chromatography on silica (eluent:methylene chloride) were triturated with petroleum ether (b.p. 60°-80° C.), filtered and dried under reduced pressure to obtain 7 g of 4-[(1H-indol-4-yl)-ethenyl]-phenol melting at ≃145° C.

reactant | p-hydroxybenzyltriphenylphosphonium bromide | 31 g | [Br-].OC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | butyllithium | C(CCC)[Li]
reactant | 4-formyl-indole | 5 g | C(=O)C1=C2C=CNC2=CC=C1 | C9H7NO
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-[(1H-indol-4-yl)-ethenyl]-phenol | 7 g | N1C=CC2=C(C=CC=C12)C=CC1=CC=C(C=C1)O | C16H13NO
